US07109228B2
2-[4-(3,5-Dichlorophenoxy)-3,5-diethyl-1H-pyrazol-1-yl]ethanol
3,5-Dichlorophenol (501 mg, 3.07 mmol), potassium carbonate (467 mg, 3.38 mmol) and finally sodium iodide (461 mg, 3.07 mmol) were added sequentially to a stirred solution of the chloroketone of Preparation 2 (500 mg, 3.07 mmol) in acetone (15 ml), at room temperature and under nitrogen, producing an orange/red suspension. The mixture was heated under reflux for 22½ hours producing a yellow suspension. After cooling the mixture was diluted with water (10 ml) and the acetone was removed under reduced pressure in a fumehood (caution: possible residual lachrymator). The residue was diluted with 2M hydrochloric acid and extracted with dichloromethane (1×20 ml, 2×10 ml). The combined organic layers were washed with brine (20 ml), dried over magnesium sulphate, filtered and concentrated under reduced pressure to leave crude 4-(3,5-dichlorophenoxy)-3,5-heptanedione as an orange oil (777 mg). A portion of the crude 4-(3,5-dichlorophenoxy)-3,5-heptanedione (250 mg, ca. 0.865 mmol) was dissolved in ethanol (8.6 ml) and treated with 2-hydroxethyl hydrazine (65 μL, 0.951 mmol). The resulting solution was heated under reflux for 16 hours producing a red solution. After cooling, the mixture was concentrated under reduced pressure and the residue was dissolved in dichloromethane (20 ml). The resulting solution was washed with 2M hydrochloric acid (10 ml), 1 N sodium hydroxide solution (10 ml) and brine (10 ml), dried over magnesium sulphate, filtered and concentrated under reduced pressure to leave an orange oil (102 mg). The crude product was purified by flash chromatography on silica gel eluting with methanol:dichloromethane (5:95, by volume) to provide the title compound (23 mg) as an orange oil which solidified to a waxy solid on standing.

reactant | 4-(3,5-dichlorophenoxy)-3,5-heptanedione | ca. 0.865 mmol, 250 mg | ClC=1C=C(OC(C(CC)=O)C(CC)=O)C=C(C1)Cl | C13H14Cl2O3
reactant | hydrazine | 0.951 mmol, 65 μL | NN | H4N2
reactant | ethanol | 8.6 ml | C(C)O | C2H6O
product | 2-[4-(3,5-Dichlorophenoxy)-3,5-diethyl-1H-pyrazol-1-yl]ethanol | 102 mg | ClC=1C=C(OC=2C(=NN(C2CC)CCO)CC)C=C(C1)Cl | C15H18Cl2N2O2
